US07855297B2
By the reaction and treatment in the same manner as in Example 1 using indan-1-carboxylic acid (0.46 g) and [(4-dimethylaminophenyl)methyl](4-ethylphenyl)amine (0.6 g) as starting materials, N-[(4-dimethylaminophenyl) methyl]-N-(4-ethylphenyl)indan-1-carboxamide (0.15 g) was obtained.

reactant | indan-1-carboxylic acid | 0.46 g | C1(CCC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | [(4-dimethylaminophenyl)methyl](4-ethylphenyl)amine | 0.6 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)CC)C | C17H22N2
product | N-[(4-dimethylaminophenyl) methyl]-N-(4-ethylphenyl)indan-1-carboxamide | 0.15 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCC2=CC=CC=C12)C1=CC=C(C=C1)CC)C | C27H30N2O
